US06982348B2
1) ethyl 3-(4-fluorophenyl)-2-(4-isopropylbenzyl)-3-oxopropionate
To a solution of ethyl (4-fluorobenzoyl)acetate (23.21 g, 110.4 mmol) in 1,2-dimethoxyethane (150 ml) was added a suspension (4.42 g, 110 mmol) of 60% sodium hydride in liquid paraffin under ice-cooling and the mixture was stirred as it was for 0.5 hr. A solution of 4-isopropylbenzyl chloride (18.6 g 110 mmol) in 1,2-dimethoxyethane (50 ml) was added at room temperature and the mixture was stirred at 70° C. overnight. The reaction solution was poured into water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1-9/1) to give the objective substance.

reactant | ethyl (4-fluorobenzoyl)acetate | 110.4 mmol, 23.21 g | FC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11FO3
reactant | sodium hydride | 110 mmol, 4.42 g | [H-].[Na+]
reactant | 4-isopropylbenzyl chloride | 110 mmol, 18.6 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(4-fluorophenyl)-2-(4-isopropylbenzyl)-3-oxopropionate | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(C)C)=O | C21H23FO3
